US07060710B2
3-(5-Methyl-3-phenylisoxazol-4-yl)-2,4-dihydroindeno[1,2-c]pyrazole-6-carboxylic acid amide
A solution of 6-bromo-3-(5-methyl-3-phenylisoxazol-4-yl)-1,4-dihydroindeno[1,2-c]pyrazole (250 mg, 0.6 mmol), hexamethyldisilazane (0.9 ml, 4.2 mmol), diisopropylethylamine (0.2 ml, 1.2 mmol) and 1,3-bis(diphenylphosphino)propane (25 mg, 0.06 mmol) in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (5 ml) was degassed with nitrogen for 0.5 h, Pd(OAc)2 (13 mg, 0.06 mmol) was added and carbon monoxide was bubbled through the reaction whilst heating to 100° C. After 2 h the stream of carbon monoxide was replaced with a balloon of carbon monoxide and the reaction was heated at 100° C. for 16 h. The reaction was cooled, partitioned between H2O and EtOAc and the organic layer washed with H2O (×10), dried (MgSO4) and evaporated. The residue was chromatographed on silica, eluting with 3% methanol/dichloromethane to give a yellow oil which was crystallised from CDCl3 to give the title compound as a white solid (40 mg, 19%). 1H NMR (360 MHz, CDCl3) δ 7.92 (s, 1H), 7.81 (s, 1H), 7.51 (d, J=6.8 Hz, 2H), 7.47–7.37 (m, 3H), 3.33 (s, 2H), 2.60 (s, 3H), m/z (ES+) 357 (M+H)+.

reactant | 6-bromo-3-(5-methyl-3-phenylisoxazol-4-yl)-1,4-dihydroindeno[1,2-c]pyrazole | 0.6 mmol, 250 mg | BrC=1C=C2CC3=C(NN=C3C=3C(=NOC3C)C3=CC=CC=C3)C2=CC1 | C20H14BrN3O
reactant | hexamethyldisilazane | 4.2 mmol, 0.9 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | diisopropylethylamine | 1.2 mmol, 0.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,3-bis(diphenylphosphino)propane | 0.06 mmol, 25 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 5 ml | CN1C(N(CCC1)C)=O | C6H12N2O
catalyst | Pd(OAc)2 | 0.06 mmol, 13 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(5-Methyl-3-phenylisoxazol-4-yl)-2,4-dihydroindeno[1,2-c]pyrazole-6-carboxylic acid amide | 40 mg, 19% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=C2C(=NN1)C1=CC=C(C=C1C2)C(=O)N | C21H16N4O2
